US06034099
From the reaction of N,N-diethyl-3-hydrazino-4-methoxybenzenesulfonamide and ethylbutyrylacetate, N,N-diethyl-3-(4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-4-methoxybenzenesulfonamide is obtained. Subsequent reaction with 2-ethylaniline yields N,N-diethyl-3-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-4-methoxybenzenesulfonamide, oil

reactant | N,N-diethyl-3-hydrazino-4-methoxybenzenesulfonamide | C(C)N(S(=O)(=O)C1=CC(=C(C=C1)OC)NN)CC | C11H19N3O3S
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | N,N-diethyl-3-(4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-4-methoxybenzenesulfonamide | C(C)N(S(=O)(=O)C1=CC(=C(C=C1)OC)N1N=C(CC1=O)CCC)CC | C17H25N3O4S
